US08633212B2
In a flame dried 20 mL vial was placed 6-bromo-2-methylene-2,3-dihydro-1H-inden-1-one (98 mg, 0.441 mmol) and it was dissolved in dichloromethane (4.5 mL). To this solution was added 2-trimethylsilyloxy-1,3-butadiene (98 μL, 0.565 mmol) and the solution was cooled down to −78° C. After stirring for 5 minutes, BF3.OEt2 (27 mL, 0.219 mmol) was slowly added. After 5 minutes of the BF3.OEt2 addition, TLC indicated consumption of the dienophile. The reaction was quenched with MeOH (300 μL), allowed to stir for 5 minutes at −78° C. and then warmed up to room temperature. Once at room temperature, 2M HCl (7 mL) was added. The phases were separated and the aqueous phase was back-extracted with dichloromethane twice (5 mL/each). The combined organic phases were dried over MgSO4, filtered and concentrated under reduce pressure. The crude material was purified by flash chromatography (ISCO, 12 g SiO2 cartridge, ethyl acetate/hexanes as the eluents). The corresponding fractions were combined and concentrated under reduce pressure yielding 6′-bromospiro[cyclohexane-1,2′-indene]-1′,4(3′H)-dione (62 mg, 0.212 mmol, 48% yield).

reactant | 6-bromo-2-methylene-2,3-dihydro-1H-inden-1-one | 0.441 mmol, 98 mg | BrC1=CC=C2CC(C(C2=C1)=O)=C | C10H7BrO
reactant | 2-trimethylsilyloxy-1,3-butadiene | 0.565 mmol, 98 μL | C[Si](OC(=C)C=C)(C)C | C7H14OSi
reactant | BF3.OEt2 | 0.219 mmol, 27 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
product | 6′-bromospiro[cyclohexane-1,2′-indene]-1′,4(3′H)-dione | 0.212 mmol, 62 mg, 48% yield | BrC1=CC=C2CC3(C(C2=C1)=O)CCC(CC3)=O | C14H13BrO2
